US09062055B2
Step 6. tert-Butyl {1-[3-chloro-1-(3-fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethyl}carbamate
A solution of N-chlorosuccinimide (24 mg, 0.18 mmol) in DMF (0.1 mL) was added dropwise to an ice-cooled solution of tert-butyl {1-[1-(3-fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethyl}carbamate (60 mg, 0.17 mmol) (5073-171) in N,N-dimethylformamide (1 mL). The resulting mixture was allowed to warm to room temperature and stirred overnight. The mix was diluted with water and extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated, and purified on silica gel (eluting with 0-10% EtOAc/hexane) to give the desired product (26 mg, 40%). LCMS calculated for C20H22ClFN3O2(M+H)+: m/z=390.1. Found: 390.1.

reactant | N-chlorosuccinimide | 0.18 mmol, 24 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tert-butyl {1-[1-(3-fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethyl}carbamate | 0.17 mmol, 60 mg | FC=1C=C(C=CC1)N1C(=CC=2C1=NC=CC2)C(C)NC(OC(C)(C)C)=O | C20H22FN3O2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl {1-[3-chloro-1-(3-fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethyl}carbamate | 26 mg, 40% | ClC1=C(N(C2=NC=CC=C21)C2=CC(=CC=C2)F)C(C)NC(OC(C)(C)C)=O | C20H21ClFN3O2
